US09085517B2
Ethyl 2,5-difluoro-4-methylbenzoate
To a solution of 2,5-difluoro-4-methylbenzoic acid (595 mg, 3.89 mmol) in ethanol (30 mL) was added a catalytic amount of thionyl chloride (2 drops). The reaction was stirred for 18 hours at 70° C., and cooled to room temperature. The solvent was removed in vacuo to afford the title compound as a clear oil (500 mg, 86%). No further purification undertaken.

reactant | 2,5-difluoro-4-methylbenzoic acid | 3.89 mmol, 595 mg | FC1=C(C(=O)O)C=C(C(=C1)C)F | C8H6F2O2
reactant | ethanol | 30 mL | C(C)O | C2H6O
catalyst | thionyl chloride | 2 drops | S(=O)(Cl)Cl | Cl2OS
product | Ethyl 2,5-difluoro-4-methylbenzoate | 500 mg, 86% | FC1=C(C(=O)OCC)C=C(C(=C1)C)F | C10H10F2O2
